US08859553B2
3-(2-(6-(Cyclobutylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from N-cyclobutyl-6-ethynylpyridazin-3-amine and 3-iodo-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide (as prepared above) in a manner similar to that described for in Example 1. The product was obtained as a pale yellow solid. Mp: 223-225° C.; 1H NMR (300 MHz, DMSO-d6) δ: 10.72 (1H, s), 8.31 (1H, s), 8.17-8.22 (2H, m), 7.94-7.96 (1H, dd, J=1.5 and 8.1 Hz), 7.75 (1H, s), 7.47-7.61 (4H, m), 6.77-6.80 (1H, d, J=9.0 Hz), 4.42 (1H, m), 2.56 (3H, s), 2.33-2.35 (2H, m), 2.19 (3H, brs), 1.88-1.99 (2H, m), 1.72-1.78 (2H, m). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C29H26F3N6O: 531.2115. found: 531.2113.

reactant | N-cyclobutyl-6-ethynylpyridazin-3-amine | C1(CCC1)NC=1N=NC(=CC1)C#C | C10H11N3
reactant | 3-iodo-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide | IC=1C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C=NC(=C2)C)C=CC1C | C19H15F3IN3O
product | 3-(2-(6-(Cyclobutylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide | C1(CCC1)NC1=CC=C(N=N1)C#CC=1C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C=NC(=C2)C)C=CC1C | C29H25F3N6O
